US05047411
The mixture of 2-amino-6-hydroxymethylbenzoxazole (0.5 g) and thionyl chloride (0.66 ml) in dichloromethane (5 ml) was stirred for 4.5 hours under ice-cooling. The isolated precipitate was collected by filtration, washed with diethyl ether and dried to give 2-amino-6-chloromethylbenzoxazole hydrochloride (0.57 g).

reactant | 2-amino-6-hydroxymethylbenzoxazole | 0.5 g | NC=1OC2=C(N1)C=CC(=C2)CO | C8H8N2O2
reactant | thionyl chloride | 0.66 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-amino-6-chloromethylbenzoxazole hydrochloride | 0.57 g | Cl.NC=1OC2=C(N1)C=CC(=C2)CCl | InChI=1S/C8H7ClN2O.ClH/c9-4-5-1-2-6-7(3-5)12-8(10)11-6;/h1-3H,4H2,(H2,10,11);1H
